US07838498B2
Preparation of 1-bromo-2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)benzene (Intermediate BM)
To a stirred solution of 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propan-1-ol (BL) (0.268 g, 0.70 mmol) in 5 mL of THF was added NaH (0.034 g, 0.84 mmol, 60%) and stirred for 40 min. 1-bromo-2-butyne (0.094 mL, 1.05 mmol) was added and the mixture was stirred overnight at room temperature. The reaction was quenched with water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over Na2SO4, concentrated and purified by preparative TLC (eluting with EtOAc:PE=1:10) to obtain 0.2 g of intermediate BM.

reactant | 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propan-1-ol | 0.70 mmol, 0.268 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCCO | C18H20BrClO2
reactant | NaH | 0.84 mmol, 0.034 g | [H-].[Na+]
reactant | 1-bromo-2-butyne | 1.05 mmol, 0.094 mL | BrCC#CC | C4H5Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-(3-(but-2-ynyloxy)propyl)-4-chloro-5-(4-ethoxybenzyl)benzene | 0.2 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCCOCC#CC | C22H24BrClO2
